US07893056B2
To a solution of (3R)-4,4-dimethyl-1-(phenylmethyl)-3-pyrrolidinol (J. Med. Chem. 1992, 35, 4205-4213) (1.8634 g, 9.076 mmol) in MeOH (45 mL) was added 1 N aq. HCl (9.1 mL, 9.1 mmol) and 10% Pd/C (50% water, 375 mg). The mixture was hydrogenated under balloon pressure for 2 days, and was then filtered. The solution was concentrated in vacuo and azeotroped with MeOH (4×20 mL) to give (3R)-4,4-dimethyl-3-pyrrolidinol hydrochloride (1.2654 g, 93% yield) as an amber solid. LCMS: (M+H)+: 116.1.

reactant | (3R)-4,4-dimethyl-1-(phenylmethyl)-3-pyrrolidinol | 9.076 mmol, 1.8634 g | CC1([C@H](CN(C1)CC1=CC=CC=C1)O)C | C13H19NO
reactant | HCl | 9.1 mmol, 1 N, 9.1 mL | Cl | ClH
solvent | MeOH | 45 mL | CO | CH4O
catalyst | Pd/C | 375 mg | [Pd] | Pd
product | (3R)-4,4-dimethyl-3-pyrrolidinol hydrochloride | 1.2654 g, 93% yield | Cl.CC1([C@H](CNC1)O)C | InChI=1S/C6H13NO.ClH/c1-6(2)4-7-3-5(6)8;/h5,7-8H,3-4H2,1-2H3;1H/t5-;/m0./s1
